US07612091B2
(S)-2-(7-Chloro-1-oxo-1H-isoquinolin-2-yl)-butyric acid, tert butyl ester
To a stirred solution of 2-[3-(1-tertbutoxycarbonyl-propylamino)-7-chloro-1-oxo-3,4-dihydro-1H-isoquinolin-2-yl]-butyric acid tert-butyl ester (8.58 g) in isopropanol (180 ml) at 0° C. was added concentrated hydrochloric acid (20 ml). The resulting mixture was allowed to warm to ambient and stirred for 18 hours. The mixture was then diluted with ethyl acetate (500 ml) and water (150 ml). The organic phase was separated and washed with water, then brine, dried (magnesium sulfate), filtered and concentrated. The sub-title product was obtained as a yellow solid (5.57 g, 97%); m.p. 111.3-111.8° C.; [α]25D−52.3° (c=1, CHCl3); IR (solid) 1731.4, 1649.5, 1593.2, 1229.6, 1152.8, 901.9 cm−1; 1H NMR (400 MHz, CDCl3) δ 0.95 (3H, t), 1.48 (9H, s), 1.95 (1H, m), 2.30 (1H, m), 5.55 (1H, m), 6.40 (1H, m), 7.15 (1H, m), 7.49 (1H, m), 7.61 (1H, m), 8.40 (1H, m); 13C NMR (100 MHz, CDCl3) δ 10.9, 24,8, 28.1, 59.2, 82,8, 105.7, 127.3, 127.8, 128.1, 129.5, 133.1, 133.2, 135.4, 161.8, 170.2; MS ES(+) 322.4 (M+H).

reactant | 2-[3-(1-tertbutoxycarbonyl-propylamino)-7-chloro-1-oxo-3,4-dihydro-1H-isoquinolin-2-yl]-butyric acid tert-butyl ester | 8.58 g | C(C)(C)(C)OC(C(CC)N1C(C2=CC(=CC=C2CC1NC(CC)C(=O)OC(C)(C)C)Cl)=O)=O | C25H37ClN2O5
reactant | hydrochloric acid | 20 ml | Cl | ClH
solvent | isopropanol | 180 ml | C(C)(C)O | C3H8O
solvent | ethyl acetate | 500 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 150 ml | O | H2O
product | (S)-2-(7-Chloro-1-oxo-1H-isoquinolin-2-yl)-butyric acid, tert butyl ester | ClC1=CC=C2C=CN(C(C2=C1)=O)[C@H](C(=O)OC(C)(C)C)CC | C17H20ClNO3
